US05362906
Step 2: Methyl 3-hydroxy-7,11,15-trimethylhexadeca-6,10,14-trienoate
Powdered sodium borohydride (38 mg, 1.0 mmol) was added at 0° C. to a stirred solution of methyl 3-oxo-7,11,15-trimethylhexadeca-6,10,14-trienoate (580 mg, 1.8 mmol) in methanol (5 mL) in one portion. The resulting mixture was stirred at 0° C. for 15 minutes, then treated with a saturated aqueous solution of NH4Cl (2 mL). The resulting mixture was extracted with diethyl ether. This extract was washed with water, dried, filtered and evaporated to give the crude product which was purified by flash chromatography. Elution of the column with hexane:ethyl acetate (10:1/v:v) afforded the title compound as a colorless gum.

reactant | sodium borohydride | 1.0 mmol, 38 mg | [BH4-].[Na+]
reactant | methyl 3-oxo-7,11,15-trimethylhexadeca-6,10,14-trienoate | 1.8 mmol, 580 mg | O=C(CC(=O)OC)CCC=C(CCC=C(CCC=C(C)C)C)C | C20H32O3
reactant | NH4Cl | 2 mL | [NH4+].[Cl-]
solvent | methanol | 5 mL | CO | CH4O
product | Methyl 3-hydroxy-7,11,15-trimethylhexadeca-6,10,14-trienoate | OC(CC(=O)OC)CCC=C(CCC=C(CCC=C(C)C)C)C | C20H34O3
